US07419969B2
Ethyl 9-(acetoxymethyl)-9-(chloromethyl)-3-(methylsulfonyloxy)-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylate.
A solution of ethyl 2-(3-acetoxy-1-chloro-2-(2-hydroxyethoxy)propan-2-yl)-5-hydroxy-6-oxo-1,6-dihydropyrimidine-4-carboxylate (2.322 g, 6.13 mmol) in tetrahydrofuran (100 mL) was treated with methane sulfonylchloride (2.11 g, 18.4 mmol) and Et3N (2.25 g, 22 mmol) and then heated (60° C., oil bath) for 3 hrs. Solvent was removed in-vacuo and the crude product was dissolved in ethyl acetate (100 mL), then washed with water (2×50 mL). The organic solution was dried (Na2SO4), filtered and concentrated in-vacuo to give the title compound as a viscous amber oil which was used immediately in the following reaction.

reactant | ethyl 2-(3-acetoxy-1-chloro-2-(2-hydroxyethoxy)propan-2-yl)-5-hydroxy-6-oxo-1,6-dihydropyrimidine-4-carboxylate | 6.13 mmol, 2.322 g | C(C)(=O)OCC(CCl)(OCCO)C=1NC(C(=C(N1)C(=O)OCC)O)=O | C14H19ClN2O8
reactant | methane sulfonylchloride | 18.4 mmol, 2.11 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Et3N | 22 mmol, 2.25 g | CCN(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | Ethyl 9-(acetoxymethyl)-9-(chloromethyl)-3-(methylsulfonyloxy)-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylate | C(C)(=O)OCC1(OCCN2C1=NC(=C(C2=O)OS(=O)(=O)C)C(=O)OCC)CCl | C15H19ClN2O9S
